US08022062B2
9-Fluoro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Dissolve 9-fluoro-6-methoxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (8.1 g, 27.7 mmol) in DCM (250 mL), cool to 0° C. and add boron tribromide (5.24 mL, 55.5 mmol). Stir at ambient temperature for 1.5 h, wash the mixture with brine, dry the organic layer over Na2SO4 and concentrate in vacuo to obtain the desired intermediate (7.6 g, 99%). MS (ES+) m/z: 278 (M+H)+.

reactant | 9-fluoro-6-methoxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 27.7 mmol, 8.1 g | FC1=CC=C(C2=C1CCN(CC2)C(C(F)(F)F)=O)OC | C13H13F4NO2
reactant | boron tribromide | 55.5 mmol, 5.24 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | 9-Fluoro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 7.6 g, 99% | FC1=CC=C(C2=C1CCN(CC2)C(C(F)(F)F)=O)O | C12H11F4NO2
